US07943607B2
3-[(7-Fluoro-5,5-dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide
3-Hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide (634 mg, 2 mmol), 3-[(2,4,5-trifluorophenyl)sulfonyl]dihydrofuran-2(3H)-one (560 mg, 2 mmol) and potassium carbonate (552 mg, 4 mmol) in acetonitrile (10 mL) were heated at 160° C. for 2 h and 170° C. for 30 minutes in a microwave reactor. Water was added to the reaction mixture and the phases separated. The aqueous phase was extracted with ethyl acetate (3×20 mL), and the combined organics washed with 1M hydrochloric acid, a saturated sodium bicarbonate solution, brine and dried (MgSO4) and evaporated. The residue was dissolved in methanol and heated to reflux on a steam bath. The residual solid was removed by hot filtration and the filtrate evaporated to a residue which was chromatographed on alumina, eluting with 10% methanol in DCM, to give the desired compound as a clear foam (152 mg). 1H NMR δ (CDCl3): 1.27 (d, 3H), 2.32-2.38 (m, 2H), 2.49 (s, 3H), 3.31 (t, 2H), 3.34 (s, 3H), 3.43-3.47 (m, 1H), 3.49-3.54 (m, 1H), 4.15 (t, 2H), 4.53-4.57 (m, 1H), 6.72 (d, 1H), 6.77 (t, 1H), 7.08 (t, 1H), 7.25 (t, 1H), 7.71-7.74 (m, 1H), 8.07 (d, 1H), 8.25 (s, 1H), 9.45 (d, 1H); m/z 532 (M+H)+, 530 (M−H)−

reactant | 3-Hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide | 2 mmol, 634 mg | OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O[C@H](COC)C | C16H19N3O4
reactant | 3-[(2,4,5-trifluorophenyl)sulfonyl]dihydrofuran-2(3H)-one | 2 mmol, 560 mg | FC1=C(C=C(C(=C1)F)F)S(=O)(=O)C1C(OCC1)=O | C10H7F3O4S
reactant | potassium carbonate | 4 mmol, 552 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-[(7-Fluoro-5,5-dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide | 152 mg | FC=1C(=CC2=C(S(CCCO2)(=O)=O)C1)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O[C@H](COC)C | C25H26FN3O7S
